US08383827B2
Iodomethane (0.059 mL, 0.940 mmol) was added to a mixture of N-((5-bromopyridin-3-yl)(cyclopropyl)methyl)ethanesulfonamide (200 mg, 0.627 mmol) and potassium carbonate (130 mg, 0.940 mmol) in DMF (6 mL) at room temperature. The resulting mixture was heated at 60° C. for 24 h. The reaction mixture was diluted with EtOAc and water, and the mixture was washed with H2O and brine. The organic layer was separated and dried over anhydrous Na2SO4. After filtration and concentration, the residue was purified by flash column to give 32 mg of N-((5-bromopyridin-3-yl)(cyclopropyl)methyl)-N-methylethanesulfonamide. ESI-MS: m/z 334.9 (M+H)+.

reactant | Iodomethane | 0.940 mmol, 0.059 mL | IC | CH3I
reactant | N-((5-bromopyridin-3-yl)(cyclopropyl)methyl)ethanesulfonamide | 0.627 mmol, 200 mg | BrC=1C=C(C=NC1)C(NS(=O)(=O)CC)C1CC1 | C11H15BrN2O2S
reactant | potassium carbonate | 0.940 mmol, 130 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | N-((5-bromopyridin-3-yl)(cyclopropyl)methyl)-N-methylethanesulfonamide | 32 mg | BrC=1C=C(C=NC1)C(N(S(=O)(=O)CC)C)C1CC1 | C12H17BrN2O2S
